US04294960
A solution of 4-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate hydrochloride (15.0 g.), bis(trimethylsilyl)acetamide (11.3 g.) and trimethylsilylacetamide (9.7 g.) in tetrahydrofuran (300 ml.), a solution of diketene (3.41 ml.) in methylene chloride (4 ml.), a solution of bromine (2.27 ml.) in methylene chloride (4 ml.), a solution of sodium nitrite (3.1 g.) in water (20 ml.) and a solution of thiourea (4.0 g.) in water (40 ml.) were treated in a similar manner to that of Example 37-(1) to give 4-nitrobenzyl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer, 10.4 g.).

reactant | 4-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate hydrochloride | 15.0 g | Cl.NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O
reactant | bis(trimethylsilyl)acetamide | 11.3 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | trimethylsilylacetamide | 9.7 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | diketene | 3.41 ml | C=C1CC(=O)O1 | C4H4O2
reactant | bromine | 2.27 ml | BrBr | Br2
reactant | sodium nitrite | 3.1 g | N(=O)[O-].[Na+]
reactant | thiourea | 4.0 g | NC(=S)N | CH4N2S
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 4-nitrobenzyl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate | 10.4 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NO | C19H15ClN6O7S2
